US04046907
Using 5-(2-chloroethyl)-4-methyloxazole as starting material in the procedure of Example 21 the product is 1-nitro-2-methylamino-2-[2-(2-(4-methyl-5-oxazolyl)ethyl)thioethylamino]-ethylene. Also, using 2-amino-5-(2-chloroethyl)oxazole (prepared by reacting 2-amino-5-(2-hydroxyethyl)oxazole with thionyl chloride) in the procedure of Example 21 gives 1-nitro-2-methylamino-2-[2-(2-(2-amino-5-oxazolyl)ethyl)thioethylamino]ethylene.

reactant | 5-(2-chloroethyl)-4-methyloxazole | ClCCC1=C(N=CO1)C | C6H8ClNO
reactant | 1-nitro-2-methylamino-2-[2-(2-(4-methyl-5-oxazolyl)ethyl)thioethylamino]-ethylene | [N+](=O)([O-])C=C(NCCSCCC1=C(N=CO1)C)NC | C11H18N4O3S
reactant | 2-amino-5-(2-chloroethyl)oxazole | NC=1OC(=CN1)CCCl | C5H7ClN2O
product | 1-nitro-2-methylamino-2-[2-(2-(2-amino-5-oxazolyl)ethyl)thioethylamino]ethylene | [N+](=O)([O-])C=C(NCCSCCC1=CN=C(O1)N)NC | C10H17N5O3S
